US06531502B1
4-(2-Carboxyethyl)-5-[6-(4-fluorophenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester
6-(4-Fluorophenyl)-1,3-dihydroindol-2-one (60 mg, 0.26 mmol) was condensed with 4-(2-carboxyethyl)-5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (65 mg), prepared by formylation of 4-(2-carboxyethyl)-3-ethoxycarbonyl-2-methylpyrrole (Bulter, A. R., and George, S. D. (1993) Tetrahedron 49: 7017-7026), to give the title compound.

reactant | 6-(4-Fluorophenyl)-1,3-dihydroindol-2-one | 0.26 mmol, 60 mg | FC1=CC=C(C=C1)C1=CC=C2CC(NC2=C1)=O | C14H10FNO
reactant | 4-(2-carboxyethyl)-5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 65 mg | C(C)OC(=O)C1=C(NC(=C1CCC(=O)O)C=O)C | C12H15NO5
reactant | 4-(2-carboxyethyl)-3-ethoxycarbonyl-2-methylpyrrole | C(=O)(O)CCC=1C(=C(NC1)C)C(=O)OCC | C11H15NO4
product | 4-(2-Carboxyethyl)-5-[6-(4-fluorophenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC(=C1CCC(=O)O)C=C1C(NC2=CC(=CC=C12)C1=CC=C(C=C1)F)=O)C | C26H23FN2O5
